US09145415B2
To a suspension of tert-butyl (4-(aminomethyl)tetrahydro-2H-pyran-4-yl)carbamate (G15, 195 mg) and sodium carbonate (449 mg) in acetone (5 mL) and water (2 mL), benzyloxycarbonyl chloride (241 μL) was added at room temperature, and the mixture was stirred at the same temperature for 2 hours. To the reaction mixture, ethyl acetate and saturated aqueous sodium chloride were added. The organic layer was separated, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 0% hexane in ethyl acetate) to obtain tert-butyl (4-(((benzyloxycarbonyl)amino)methyl)tetrahydro-2H-pyran-4-yl)carbamate (G16, 141 mg).

reactant | tert-butyl (4-(aminomethyl)tetrahydro-2H-pyran-4-yl)carbamate | 195 mg | NCC1(CCOCC1)NC(OC(C)(C)C)=O | C11H22N2O3
reactant | sodium carbonate | 449 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | water | 2 mL | O | H2O
solvent | benzyloxycarbonyl chloride | 241 μL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
product | tert-butyl (4-(((benzyloxycarbonyl)amino)methyl)tetrahydro-2H-pyran-4-yl)carbamate | C(C1=CC=CC=C1)OC(=O)NCC1(CCOCC1)NC(OC(C)(C)C)=O | C19H28N2O5
